US04359420
A suspension of 5.76 g (24.9 mmole) of 5-(trifluoromethyl)isatoic acid anhydride and 2.44 g (27.4 mmol) of sarcosine in 8 ml of dimethyl sulphoxide is stirred at 110° C. for 4 hours, subsequently poured into 70 ml of water and evaporated to dryness in vacuo. After column chromatography on silica gel using ethyl acetate/n-hexane (9:1) for the elution and recrystallisation of the product from ethanol, there is obtained 3,4-dihydro-4-methyl-7-(trifluoromethyl)-2H-1,4-benzodiazepine-2,5(1H)-dione of melting point 203°-206° C.

reactant | 5-(trifluoromethyl)isatoic acid anhydride | 24.9 mmole, 5.76 g | FC(C1=CC=C2C(C(=O)OC(N2)=O)=C1)(F)F | C9H4F3NO3
reactant | sarcosine | 27.4 mmol, 2.44 g | N(C)CC(=O)O | C3H7NO2
reactant | water | 70 ml | O | H2O
solvent | dimethyl sulphoxide | 8 ml | CS(=O)C | C2H6OS
product | 3,4-dihydro-4-methyl-7-(trifluoromethyl)-2H-1,4-benzodiazepine-2,5(1H)-dione | CN1CC(NC2=C(C1=O)C=C(C=C2)C(F)(F)F)=O | C11H9F3N2O2
